US07157488B2
6-Phenoxy-1H-indole
Combine 4-phenoxy-1-methyl-2-nitro-benzene (6 g, 26.2 mmol) and DMF dimethylacetal (15.6 g, 131 mmol) in 60 mL dry DMF and heat at 170° C. for 16 hours. Cool to room temperature and concentrate to dryness. Dissolve residue in 50 mL EtOAc and hydrogenate with 2 g 5% Pd/C and hydrogen for 3 hours at atmospheric pressure. Filter through celite and concentragte to an oil. Purify by chromatography using Hex/EtoAC to obtain a tan solid: ISMS 210 (M+1) 1H NMR (CDCl3) 8.08 (bs, 1H), 7.61–7.59 (m, 1H), 7.34–7.29 (m, 2H), 7.18–7.17 (m, 1H), 7.18–7.0 (m, 4H), 6.92–6.89 (m, 1H), 6.56–6.54 (m, 1H).

reactant | 4-phenoxy-1-methyl-2-nitro-benzene | 26.2 mmol, 6 g | O(C1=CC=CC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H11NO3
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-Phenoxy-1H-indole | O(C1=CC=CC=C1)C1=CC=C2C=CNC2=C1 | C14H11NO
